US05075302
3(S)-[2(S)-ACETYLTHIOMETHYL-3-(2-METHYLPHENYL)PROPIONYL]AMINO-δ-VALEROLACTAM
Prepare 3(S)-amino-δ-valerolactam hydrochloride according to the procedure of J. Chem. Soc. Dalton Trans., 1987, p. 1127. Combine this lactam (0.29 g,2.0 mmol), 2(S)-acetylthiomethyl-3-(2-methylphenyl)propionic acid (0.50 g,2.0 mmol), triethylamine (0.03 g,3.0 mmol), and HOBT (0.30 g,2.0 mmol) in DMF (20 ml). Add DEC (0.38 g,2.0 mmol). Stir 18 hr, partition between EtOAc and H2O, dry and concentrate. Chromatograph on silica, eluting with 3% MeOH/CH2Cl2 to obtain the title compound as a foam, [α]D26 =-28.6° (EtOH)

reactant | 3(S)-amino-δ-valerolactam hydrochloride | Cl.N[C@@H]1CC(=O)NCC1
reactant | 2(S)-acetylthiomethyl-3-(2-methylphenyl)propionic acid | 2.0 mmol, 0.50 g | C(C)(=O)SC[C@H](C(=O)O)CC1=C(C=CC=C1)C | C13H16O3S
reactant | triethylamine | 3.0 mmol, 0.03 g | C(C)N(CC)CC | C6H15N
reactant | HOBT | 2.0 mmol, 0.30 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3(S)-[2(S)-ACETYLTHIOMETHYL-3-(2-METHYLPHENYL)PROPIONYL]AMINO-δ-VALEROLACTAM | C(C)(=O)SC[C@H](C(=O)N[C@@H]1CC(=O)NCC1)CC1=C(C=CC=C1)C | C18H24N2O3S
